US05629322
2-Imino-decahydro-cis-quinoxaline
To 46 mg of 4-t-butoxy-2-imino-decahydro-cis-quinoxaline 3 mL of EtOAc saturated with HCl was added. The reaction turned clear momentarily and another solid was formed. After 30 min the solid was filtered washed with Et2O and dried to furnish 32 mg of the title compound.

reactant | 4-t-butoxy-2-imino-decahydro-cis-quinoxaline | 3 mL, 46 mg | C(C)(C)(C)ON1CC(N[C@H]2CCCC[C@@H]12)=N | C12H23N3O
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Imino-decahydro-cis-quinoxaline | 32 mg | N=C1N[C@H]2CCCC[C@H]2NC1 | C8H15N3
